US08247436B2
3-Amino-6-methoxy-5-trifluoromethyl-pyridine-2-carboxylic acid
3-(2,5-Dimethyl-pyrrol-1-yl)-6-methoxy-5-trifluoromethyl-pyridine-2-carboxylic acid (2.1 g, 6.68 mmol) was dissolved in EtOH (40 ml) and water (20 ml). To this mixture was added TEA (2.79 ml, 20.05 mmol) followed by hydroxylamine hydrochloride (4.64 g, 66.8 mmol). The resulting mixture was heated at reflux for 5 hours. After cooling to RT, the mixture was diluted with EtOAc (100 ml) and washed with aqueous HCl (1M, 100 ml). The aqueous phase was back extracted with EtOAc (100 ml) and the combined organic phases washed with brine (100 ml), dried (MgSO4) and concentrated in vacuo to afford the product as an orange solid. The material can be used crude or recrystallised from isohexane-EtOAc (10:1) LC-MS Rt=1.0 min[M+H]+ 237 (Method 2minLC_v003)

reactant | 3-(2,5-Dimethyl-pyrrol-1-yl)-6-methoxy-5-trifluoromethyl-pyridine-2-carboxylic acid | 6.68 mmol, 2.1 g | CC=1N(C(=CC1)C)C=1C(=NC(=C(C1)C(F)(F)F)OC)C(=O)O | C14H13F3N2O3
reactant | hydroxylamine hydrochloride | 66.8 mmol, 4.64 g | Cl.NO
solvent | EtOH | 40 ml | CCO | C2H6O
solvent | water | 20 ml | O | H2O
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | 3-Amino-6-methoxy-5-trifluoromethyl-pyridine-2-carboxylic acid | NC=1C(=NC(=C(C1)C(F)(F)F)OC)C(=O)O | C8H7F3N2O3
